US07416740B2
(1) Seed Culture of L-lysine Producing Bacterium
A medium containing 40 g/L of glucose, 0.6 g/L (as nitrogen) of soybean protein hydrolysate, 1 g/L of KH2PO4, 5.6 g/L of NaOH, 1.0 g/L of ammonium sulfate, 10 mg/L of FeSO4.7H2O and 10 mg/L of MnSO4.4H2O (pH 6.0) was introduced into 1-L volume small glass fermentation tank in a volume of 300 mL and sterilized by heating at 120° C. for 20 minutes. After the fermentation tank was cooled to 31.5° C., 5 platinum loops of Escherxchia coli W3110(tyrA)/pCABD2 (International Patent Publication W095/16042) preliminarily grown on an LB plate for 24 hours was inoculated to the medium and cultured at 37° C. and pH 6.7 for 24 hours with sufficient aeration and stirring.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | NaOH | [OH-].[Na+]
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
catalyst | platinum | [Pt] | Pt
product | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
